US05011849
5.0 g (21.3 mmol) of methyl 2-amino-5-phenyl-4-thiazolecarboxylate (which was prepared as described in J. Chem. Soc. Perk. Trans. I (1982) 159-164) and 6.84 g (42.7 mmol) of t-butyl (2-aminoethyl)carbamate were heated under reduced pressure for 2 hours at a bath temperature of 140°, whereby the methanol formed was distilled off continuously. After cooling the residue was dissolved in 50 ml of methylene chloride and chromatographed on 200 g of silica gel with a 9:1 mixture of methylene chloride and methanol as the eluting agent. The fractions which were pure according to the thin-layer chromatogram were combined and evaporated under reduced pressure, whereby there were obtained 4.5 g of a red, crystallizing oil. Crystallization from methanol and an ether/hexane mixture yielded 3.48 g (45%) of t-butyl [2-(2-amino-5-phenyl-4thiazolecarboxamido)ethyl]carbamate as beige crystals which were used without further purification.

reactant | methyl 2-amino-5-phenyl-4-thiazolecarboxylate | 21.3 mmol, 5.0 g | NC=1SC(=C(N1)C(=O)OC)C1=CC=CC=C1 | C11H10N2O2S
reactant | t-butyl (2-aminoethyl)carbamate | 42.7 mmol, 6.84 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | methanol | CO | CH4O
product | t-butyl [2-(2-amino-5-phenyl-4thiazolecarboxamido)ethyl]carbamate | 3.48 g, 45% | NC=1SC(=C(N1)C(=O)NCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H22N4O3S
